US06919361B2
1H-NMR (CDCl3): δ 1.41 (9H, s), 1.65 (2H, m), 3.08 (2H, m), 3.93 (2H, t, J=6.6), 5.73 (1H, m), 5.79 (1H, s), 7.04-7.14 (3H, m), 7.24-7.37 (4H, m), 7.60 (2H, d, J=8.4) (2) t-Butyl 3-[4-(4-bromophenyl)-2-(phenylimino)thiazol-3(2H)-yl]propyl(methyl)carbamate
t-Butyl 3-[4-(4-bromophenyl)-2-(phenylimino)thiazol-3(2H)-yl]propylcarbamate (250 mg) was dissolved in N,N-dimethylformamide (2 ml), and thereto was added sodium hydride (26 mg, 60% dispersion in oil) under nitrogen atmosphere in an ice bath, and the mixture was stirred for 15 minutes. To the reaction mixture was added methyl iodide (41 μl), and the mixture was warmed to room temperature, and stirred for 6 hours. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was washed with a saturated brine, dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography [n-hexane:ethyl acetate (10:1)] to give the title compound (249 mg) as colorless oil.

reactant | t-Butyl 3-[4-(4-bromophenyl)-2-(phenylimino)thiazol-3(2H)-yl]propylcarbamate | 250 mg | BrC1=CC=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)CCCNC(OC(C)(C)C)=O | C23H26BrN3O2S
reactant | sodium hydride | 26 mg | [H-].[Na+]
reactant | methyl iodide | 41 μl | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | t-Butyl 3-[4-(4-bromophenyl)-2-(phenylimino)thiazol-3(2H)-yl]propyl(methyl)carbamate | 249 mg | BrC1=CC=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)CCCN(C(OC(C)(C)C)=O)C | C24H28BrN3O2S
